US07696229B2
A solution of H2SO4 (6.8 g, 68.00 mmol) in diethylether (80 mL) was added to 1-phenylpyrrolidine (10 g, 68.03 mmol) in diethylether (20 mL) at 0° C. The diethylether was decanted, and the resulting solution was stirred for 3 hours at 170° C., then concentrated in vacuo to afford 7.3 g (43%) of 4-(pyrrolidin-1-yl)benzenesulfonic acid as a white solid.

reactant | H2SO4 | 68.00 mmol, 6.8 g | OS(=O)(=O)O | H2O4S
reactant | 1-phenylpyrrolidine | 68.03 mmol, 10 g | C1(=CC=CC=C1)N1CCCC1 | C10H13N
solvent | diethylether | 80 mL | C(C)OCC | C4H10O
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
product | 4-(pyrrolidin-1-yl)benzenesulfonic acid | 7.3 g, 43% | N1(CCCC1)C1=CC=C(C=C1)S(=O)(=O)O | C10H13NO3S
